US07405300B2
Incorporation of radioactivity from labeled NAD into acid-precipitated protein is measured. The reaction mixture (volume 100 μL or 50 μL, in a test-tube or 96-well plate) contained 100 μg/mL calf thymus DNA (sonicated), 100 μg/mL histones, 100 mM Tris (pH 8.0), 1.0 mM DTT, 10 mM MgCl2, NAD (200 μM, 0.65 microcurie/mL), and varying amounts of enzyme. The reaction was incubated for 10 min at 37° C. or at room temperature for 60 min. The reaction was stopped and protein precipitated by addition of ice-cold trichloroacetic acid (TCA; 10% or 20% aqueous w/v). After brief storage in ice or at 4° C. for 2 hrs, the reaction mixture is filtered under vacuum through a glass fiber filter (2.5 cm disc, or 96-well filter plate). After washing with TCA and ethanol, the filter is dried and counted for tritium CPM after addition of scintillation fluid. 10 μL of a typical enzyme preparation of ˜20 mg/mL protein gave 10,000 to 20,000 CPM in the 100 μL assay using filter disc, counted with 6 mL of EcoLume (ICN). Insect cells infected with wild-type virus gave no activity. The Km for NAD is established to be 111 μM (literature 50 to 100 μM). The compounds of this invention which are tested for inhibition are dissolved in water or DMSO and added to the assay to give a range of concentrations. A few of the reference compounds tested gave the following results: 3-Aminobenzamide inhibited the reaction with an IC50 of 140 μM, nicotinamide gave IC50˜400 μM, and 1,5-isoquinolinediol gave IC50 of 1 μM. Another literature standard DPQ gave IC50 of 11 μM. The results obtained for the compounds of this invention are summarized in Table 3.

reactant | NAD | C=1N=C(C2=C(N1)N(C=N2)[C@H]3[C@@H]([C@@H]([C@H](O3)COP(=O)(O)OP(=O)(O)OC[C@@H]4[C@H]([C@H]([C@@H](O4)N5C=CCC(=C5)C(=O)N)O)O)O)O)N | C21H29N7O14P2
reactant | DMSO | CS(=O)C | C2H6OS
reactant | 3-Aminobenzamide | NC=1C=C(C(=O)N)C=CC1 | C7H8N2O
reactant | nicotinamide | C(C1=CN=CC=C1)(=O)N | C6H6N2O
solvent | water | O | H2O
product | 1,5-isoquinolinediol | C1(=NC=CC=2C(=CC=CC12)O)O | C9H7NO2
